* C:\Users\riins\OneDrive\Desktop\audio_amp_final_s3.asc
Q1 N021 N022 N028 0 BC547B
Q2 N019 0 N028 0 BC547B
V1 N022 0 SINE(0 10m 3k) AC 1
R1 N007 N021 1.2k
R2 N007 N019 1.2k
V3 N007 0 5
R3 N028 P001 2k
V4 P001 0 -5
C1 N020 N019 10µ
RB1 N008 N020 180k
RL N008 N016 4.1k
Q3 N016 N020 N023 0 BC547B
RB2 N020 N029 20k
V2 N008 0 5
RE2 N023 N026 140
C2 N026 N029 100µ
RE3 N026 N029 160
C5 N011 N016 10µ
D1 N005 N014 1N4148
D2 N014 N018 1N4148
R6 N001 N005 600
R7 N018 N027 600
Q§T1 N001 N005 N015 0 Qtip31a
Q§T2 N027 N018 N015 0 Qtip32a
R_load N015 0 10
V8 N001 0 5
V9 0 N027 5
V5 0 N029 5
XU2 N013 N009 N010 N017 N009 UA741
V10 N010 0 12
V11 0 N017 12
XU3 N006 N002 N003 N012 N002 UA741
V12 N003 0 12
V13 0 N012 12
R10 N009 N011 56k
R11 0 N013 91k
C8 N013 N011 100n
C10 N002 N004 1n
C11 N006 0 1.1n
R12 N006 N004 3.9k
R14 N004 N009 3.9k
C9 N018 N002 1µ
C12 N005 N002 1µ
V6 N025 0 PULSE(-1 1 0 10n 10n 10u 20u)
V7 N024 0 SINE(0 10m 1k)
V14 NC_01 0 AC 1
.model D D
.lib C:\Users\riins\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\riins\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 2ms
.include UA741.lib
.include tip31a.lib
.include tip32a.lib
* .ac dec 1000 1 100k
* .tran 0 200u
* .tran 0 50m 10m
.four 1k V(n015)
.backanno
.end
